US05763437
To a suspension of sodium hydride (54 mg of a 64% dispersion of mineral oil) in N,N-dimethylformamide (3 ml) was added slowly (3RS)-5-cyclohexyl-2,3-dihydro-3-phthalimido-1H-1,4-benzo-diazepin-2-one (0.50 g) at ambient temperature and the mixture was stirred for 2 hours under the same condition. To the mixture was added sodium iodide (0.213 g) and followed dropwise a solution of 2-chloromethylpyridine (0.213 g) at the same temperature. The mixture was stirred overnight at ambient temperature To the mixture was added acetic acid (0.4 ml) and stirred for 10 minutes. The resultant mixture was concentrated in vacuo and the residue was taken up with ethyl acetate and water. The aqueous layer was alkalined with sodium carbonate and extracted with ethyl acetate. The combined extracts were dried over sodium sulfate, filtered and concentrated in vacuo to give a crude compound. The crude compound was purified by column chromatography on silica gel with a mixture of chloroform and methanol to give (3RS)-5-cyclohexyl-2,3-dihydro-3-phthalimido-1-(pyridin-2-yl)methyl-1H-1,4-benzodiazepin-2-one.

reactant | sodium hydride | [H-].[Na+]
reactant | (3RS)-5-cyclohexyl-2,3-dihydro-3-phthalimido-1H-1,4-benzo-diazepin-2-one | 0.50 g | C1(CCCCC1)C1=NC(C(NC2=C1C=CC=C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C23H21N3O3
reactant | sodium iodide | 0.213 g | [I-].[Na+]
reactant | 2-chloromethylpyridine | 0.213 g | ClCC1=NC=CC=C1 | C6H6ClN
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | acetic acid | 0.4 ml | C(C)(=O)O | C2H4O2
product | (3RS)-5-cyclohexyl-2,3-dihydro-3-phthalimido-1-(pyridin-2-yl)methyl-1H-1,4-benzodiazepin-2-one | C1(CCCCC1)C1=NC(C(N(C2=C1C=CC=C2)CC2=NC=CC=C2)=O)N2C(C=1C(C2=O)=CC=CC1)=O | C29H26N4O3
